US08168782B2
One base that is particularly useful in neutralizing the hemitartrate salt is aqueous potassium carbonate. In contrast, it was found that when aqueous NaOH was used to neutralize (R)-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepinium hemitartrate a difficult-to-separate emulsion was generated. However, aqueous potassium carbonate can be used that is essentially free of any emulsion when extracting the free base (R)-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine after neutralizing. In addition, it was also found that ethyl acetate was particularly suitable for use in the steps of neutralizing, contacting and crystallizing to provide (R)-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride hemihydrate. Ethyl acetate was also found particularly useful for the dissolution of concentrations of water appropriate for crystallizing the (R)-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride hemihydrate.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | [OH-].[Na+]
reactant | (R)-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepinium hemitartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].ClC=1C=CC2=C([C@H](C[NH2+]CC2)C)C1.ClC=1C=CC2=C([C@H](C[NH2+]CC2)C)C1
product | (R)-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride hemihydrate | O.Cl.ClC=1C=CC2=C([C@H](CNCC2)C)C1.ClC=1C=CC2=C([C@H](CNCC2)C)C1.Cl | InChI=1S/2C11H14ClN.2ClH.H2O/c2*1-8-7-13-5-4-9-2-3-10(12)6-11(8)9;;;/h2*2-3,6,8,13H,4-5,7H2,1H3;2*1H;1H2/t2*8-;;;/m00.../s1
